US04536499
Step C 2-(3-ethyl-5-methyl-4-isoxazoly)-N,N-dimethyl-γ-oxo-indole-3-butanamide
A solution of 978 mg (0.003 mole) of 2-(3-ethyl-5-methyl-4-isoxazolyl)-γ-oxo-indole-3-butanoic acid in 15 ml of methylene chloride is treated with 345 mg (0.003 mole) of N-hydroxy-succinimide followed by the dropwise addition of 618 mg (0.003 mole) of dicyclohexylcarbodiimide in 10 ml CH2Cl2. The resulting mixture is stirred 5 hours at room temperature. The mixture is then filtered, and the filter cake is washed with CH2Cl2. The combined CH2Cl2 layers are added dropwise to 20 ml of 40% aqueous dimethylamine and 20 ml of CH2Cl2. The mixture is stirred overnight; following which water is added and the layers separated. The CH2Cl2 layer is washed with water, brine, dried over MgSO4, filtered and evaporated. The residue is crystallized to give the title compound, m.p. 144.5°-148° C.

reactant | 2-(3-ethyl-5-methyl-4-isoxazolyl)-γ-oxo-indole-3-butanoic acid | 0.003 mole, 978 mg | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1C(CCC(=O)O)=O)C | C18H18N2O4
reactant | N-hydroxy-succinimide | 0.003 mole, 345 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 0.003 mole, 618 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-ethyl-5-methyl-4-isoxazoly)-N,N-dimethyl-γ-oxo-indole-3-butanamide | C(C)C1=NOC(=C1C=1NC2=CC=CC=C2C1C(CCC(=O)N(C)C)=O)C | C20H23N3O3
